US09315521B2
To a 0° C. mixture of lithium aluminum hydride (300 mg, 7.9 mmol) in anhydrous THF (10 mL) was slowly added a solution of ethyl 4-(propan-2-yl)-1,3-thiazole-5-carboxylate (1.06 g, 6.1 mmol) in anhydrous THF (10 mL). The reaction mixture was stirred at room temperature for 1.5 hours. After cooling to 0° C., water (20 mL) and EtOAc (40 mL) were added. The mixture was stirred for 30 minutes. The solid material was removed by filtration. The organic layer was recovered. The aqueous layer was extracted with EtOAc (2×20 mL). The combined organic extracts were dried over MgSO4, filtered, evaporated, and dried in vacuo, affording [4-(propan-2-yl)-1,3-thiazol-5-yl]methanol (802 mg, 96% yield). The product was used without further purification.

reactant | lithium aluminum hydride | 7.9 mmol, 300 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-(propan-2-yl)-1,3-thiazole-5-carboxylate | 6.1 mmol, 1.06 g | CC(C)C=1N=CSC1C(=O)OCC | C9H13NO2S
reactant | water | 20 mL | O | H2O
reactant | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [4-(propan-2-yl)-1,3-thiazol-5-yl]methanol | 802 mg, 96% yield | CC(C)C=1N=CSC1CO | C7H11NOS
